US04009274
A mixture of β-cyanoethylbenzylamine (92 g.), conc hydrochloric acid (60 ml.), ethanol (120 ml.), paraformaldehyde (30 g.) and acetone (120 ml.) were heated at reflux for 5 hours. The solvent was removed in vacuo and the residue dissolved in water (100 ml.) and washed with ether (2 × 100 ml.). The aqueous solution was made basic with aqueous potassium carbonate and the solution extracted with ether (3 × 100 ml.). The combined extracts were dried and evaporated to give N-benzyl-N-(2-cyanoethyl)-4-aminobutan-2-one (132 g) which was dissolved in dry benzene (1.3 liter) and sodium methoxide (prepared from sodium (13.2 g) was added portionwise. The mixture was refluxed for 5 hours and the cooled solution washed with 2N HCl (4 × 500 ml.). The combined extracts were made basic with potassium carbonate and extracted into methylene chloride (4 × 500 ml.) and the combined extracts dried (MgSO4) and solvent removed in vacuo. The residual oil was distilled to give 1-benzyl-3-cyano-4-methyl-1,2,5,6-tetrahydropyridine as a colourless oil (40 g.) b.p. 136° C/5 × 10-3 mm. Hg. which was converted to the hydrochloride by treating an ethereal solution with dry HCl gas. The resultant solid was recrystallised from methanol-ether giving the hydrochloride of the title compound as colourless needles (35 g.) m.p. 172° C. Found: C, 68.0; H, 7.0; N, 11.3% C14H16N2HCl requires C, 67.6; H, 6.9; N, 11.3%.

reactant | β-cyanoethylbenzylamine | 92 g | C(#N)CCNCC1=CC=CC=C1 | C10H12N2
reactant | hydrochloric acid | 60 ml | Cl | ClH
reactant | ethanol | 120 ml | C(C)O | C2H6O
reactant | paraformaldehyde | 30 g | C=O | CH2O
reactant | acetone | 120 ml | CC(=O)C | C3H6O
product | N-benzyl-N-(2-cyanoethyl)-4-aminobutan-2-one | 132 g | C(C1=CC=CC=C1)N(CCC(C)=O)CCC#N | C14H18N2O
